US07700655B2
(1) 2-Bromo-1-(5-chloro-2-hydroxyphenyl)ethanone
Phenyltrimethylammonium tribromide (0.44 g, 1.17 mmol) was added to a solution of 5′-chloro-2′-hydroxyacetophenone (0.20 g, 1.17 mmol) in tetrahydrofuran (6 mL) and the mixture was stirred at room temperature for 8 hours. The reaction mixture was poured into water and extracted with ethyl acetate. After the ethyl acetate layer was washed with brine and dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=5:1) to give the title compound (220.7 mg, 75.6%) as an yellow oil.

reactant | Phenyltrimethylammonium tribromide | 1.17 mmol, 0.44 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | 5′-chloro-2′-hydroxyacetophenone | 1.17 mmol, 0.20 g | ClC=1C=CC(=C(C1)C(C)=O)O | C8H7ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 2-Bromo-1-(5-chloro-2-hydroxyphenyl)ethanone | 220.7 mg, 75.6% | BrCC(=O)C1=C(C=CC(=C1)Cl)O | C8H6BrClO2
